Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization (___)
 
History of Present Illness:
Mr. ___ is a ___ male
with a history prediabetes, hypertension, and dyslipidemia
directly admitted from catheterization lab after NSTEMI. Patient
was in his usual state of health until yesterday morning when he
developed constant, substernal, "sharp," "paralytic" chest pain
radiating to his left shoulder, trunk, and arm with associated
left arm weakness. He initially likened the pain to "GERD," but
derived no relief from antiacids, prompting him to seek care. He
described worsening with inspiration, shallow breathing in that
regard, and some improvement from sitting forward. It bore no
temporal relationship to activity. Pain was evidently distinct
from recent atypical chest pains described at outpatient
encounters. He denied lightheadedness, dizziness, presyncope,
syncope, visual changes, palpitations, cough, gastrointestinal
distress, or recent illness.

He was found to have troponin 0.71 and sub-millimeter ST
elevations in inferior leads at urgent care, prompting transfer
to ED. He was empirically heparinized, and his pain 
spontaneously
resolved overnight. Troponin and CK-MB peaked at 1.09 and 81,
respectively. CTA chest was negative for pulmonary embolism or
aortic dissection, but incidentally revealed a thyroid mass and
scattered bilateral subcentimeter pulmonary nodules. There was
some concern for suppurative thyroiditis with associated
mediastinitis, which was then exonerated by comparative MR
___ images some years prior. Given probable cardiac event, 
it
was recommended he undergo catheterization prior to further
orolaryngology evaluation. Coronary angiography revealed total
occlusion of OM2. On arrival to floor, he is "better than
yesterday...well, I was having a heart attack." He endorses some
minor, residual substernal ___ in severity as well as left
should pain. He "hasn't slept in four days," but otherwise has 
no
other concerns.

 
Past Medical History:
-Prediabetes 
-Hypertension
-Dyslipidemia 
-Rosacea
-Umbilical herniorrhapy 
-Appendectomy 
 
Social History:
___
Family History:
-Paternal h/o MI (age ___
-Maternal uncles h/o MI
 
Physical Exam:
VITALS: T 98.7, HR 71, BP 108/71, RR 16, O2 95% RA
GENERAL: no apparent distress, lying comfortably in bed
HEENT: anicteric sclerae, oropharynx clear 
NECK: supple, trachea midline, JVP undetectable, fullness at 
left
neck base
CARDIAC: RRR, S1/S2, no m/r/g
LUNGS: unlabored, CTAB   
ABDOMEN: soft, non-distended, non-tender 
EXTREMITIES: warm, without edema 
PULSES: palpable and symmetric
 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:24PM BLOOD WBC-10.1* RBC-5.09 Hgb-15.3 Hct-44.8 
MCV-88 MCH-30.1 MCHC-34.2 RDW-13.2 RDWSD-42.5 Plt ___
___ 08:24PM BLOOD Neuts-65.0 ___ Monos-7.7 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-6.54* AbsLymp-2.55 AbsMono-0.77 
AbsEos-0.12 AbsBaso-0.04
___ 08:24PM BLOOD ___ PTT-29.8 ___
___ 08:24PM BLOOD Glucose-95 UreaN-19 Creat-1.1 Na-141 
K-4.3 Cl-100 HCO3-28 AnGap-13
___ 08:24PM BLOOD ALT-38 AST-86* CK(CPK)-913* AlkPhos-71 
TotBili-0.3
___ 08:24PM BLOOD TSH-4.1
___ 08:24PM BLOOD T4-6.0 T3-120

CARDIAC ENZYMES:
===============
___ 08:24PM BLOOD CK-MB-81* MB Indx-8.9*
___ 08:24PM BLOOD cTropnT-0.71*
___ 02:05AM BLOOD cTropnT-1.09*
___ 07:45AM BLOOD CK-MB-71* MB Indx-8.3*
___ 07:45AM BLOOD cTropnT-1.06*

DISCHARGE LABS:
===============
___ 02:03AM BLOOD WBC-7.8 RBC-4.31* Hgb-13.2* Hct-37.9* 
MCV-88 MCH-30.6 MCHC-34.8 RDW-13.2 RDWSD-42.5 Plt ___
___ 02:03AM BLOOD ___ PTT-51.2* ___
___ 02:03AM BLOOD Glucose-117* UreaN-16 Creat-1.0 Na-138 
K-4.3 Cl-103 HCO3-25 AnGap-10
___ 02:03AM BLOOD Calcium-8.7 Phos-2.3* Mg-2.1
___ 03:32AM BLOOD %HbA1c-5.9 eAG-123
___ 03:32AM BLOOD Triglyc-64 HDL-55 CHOL/HD-3.0 LDLcalc-95

STUDIES:
========
CTA CHEST (___)
IMPRESSION:   
1.  A large, centrally hypodense structure measuring at least 
3.6 x 2.2 x 3.8 cm extends from the left neck in the expected 
region of the left lobe of the thyroid.  Nonurgent ultrasound is 
recommended for further evaluation. 
2.  No evidence of pulmonary embolism or aortic abnormality. 
3.  There are scattered bilateral pulmonary nodules, measuring 
up to 6 mm in the left lower lobe.  The ___ 
guidelines for pulmonary nodule guidelines suggest for pulmonary 
nodules greater than 4 mm or less than 6mm, 12 month follow-up 
in low-risk patients, and ___ month follow-up in high risk 
patients. 

CT HEAD WITHOUT CONTRAST (___)
IMPRESSION:  
No acute intracranial abnormality.

TTE (___)
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is moderate 
regional left ventricular systolic
dysfunction with dyskinesis of the basal inferolateral wall, 
hypokinesis of the basal inferior and anterolateral walls, and 
mid inferolateral wall (see schematic) and preserved/normal 
contractility of the remaining segments. Global left ventricular 
systolic function is mildly depressed. The visually estimated 
left ventricular ejection fraction is 45-50%. Left ventricular 
cardiac index is low normal (2.0-2.5 L/min/m2). Global 
longitudinal strain is depressed (16 %; normal less than -20%) 
There is no resting left ventricular outflow tract gradient. 
Tissue Doppler suggests a normal left ventricular filling 
pressure (PCWP less than 12mmHg). Normal right ventricular 
cavity size with normal free wall motion. The
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is normal. 
The aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve
stenosis. There is no aortic regurgitation. The mitral leaflets 
are mildly thickened with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal.
There is physiologic tricuspid regurgitation. The pulmonary 
artery systolic pressure could not be estimated. There is no 
pericardial effusion.

IMPRESSION: Mild symmetric LVH with moderate regional LV 
dysfunction c/w CAD, with mildly depressed systolic function. 
Normal right ventricular free wall systolic function. 
  
CARDIAC CATHETERIZATION (___)
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is without angiographically apparent disease.
* Left Anterior Descending
The LAD is with apical 60-70%.
The ___ Diagonal is a large vessel with focal 70%.
* Circumflex
The Circumflex is with ___ proximal.
The ___ Marginal is a very small vessel with subtotal origin 
occlusion.
The ___ Marginal appears to be a 1.5mm vessel and is 100% 
occluded proximally.
* Right Coronary Artery
The RCA is with long mid eccentric 60%.
The Right PDA is without significant disease.
Intra-procedural Complications: None
Impressions:
Culprit OM2 occlusion
 
Brief Hospital Course:
___ male with personal history of atherosclerotic risk 
factors and familial history of myocardial infarction admitted 
from catheterization lab after NSTEMI
secondary to culprit OM2 without intervention.

#) NSTEMI, type I: while chest pain was atypical, compelling 
biochemical and electrocardiographic changes were appreciated, 
namely troponin and CK-MB at 1.09 and 81, respectively, as well 
as sub-millimeter STE in inferior leads in keeping with unstable 
plaque rupture. Dyskinetic and hypokinetic focal wall motion 
abnormalities and borderline global systolic function likewise 
noted. Coronary angiography revealed presumably causative 100% 
occlusion at OM2, for which intervention was
deferred, given diminutive nature and near resolution of chest 
pain by then. Sub-total occlusion of OM1 and non-critical 
stenoses at LAD, D1, and RCA also noted. Stress test for latter 
stenoses could be informative. He was heparinized for 48 hours 
and medically optimized with aspirin, clopidogrel, Toprol XL 50 
mg, lisinopril 5 mg, and atorvastatin 80 mg.  

#) Ischemic cardiomyopathy with borderline ejection fraction: 
LVEF = 45-50% in the context of dyskinetic and hypokinetic focal 
wall motion abnormalities. No features of congestive heart 
failure or cardiogenic shock. No indication for diuretic in that 
regard. Lisinopril and Toprol XL implemented for goal directed 
medical therapy. Anticipate surveillance TTE to assess for 
recovery after one to three months
of optimization.

#) Left neck mass: incidental finding on CTA chest. Suppurative 
thyroiditis and associated mediastinitis first evoked, then 
rescinded in the context of remote comparative MR ___ 
images. He was likewise well-appearing without features of 
sepsis. Scattered subcentimeter pulmonary nodules and 
lymphadenopathy suspicious for malignant process. Thyroid 
function tests within normal limits. ENT clarified non-emergent 
biopsy could be obtained after discharge.

#) Hypertension: hold home amlodipine 5 mg in favor of 
anti-anginals and goal directed medical therapy, as above.

TRANSITIONAL ISSUES:
======================
NEW MEDICATIONS:
-Atorvastatin 80 mg PO daily
-Clopidogrel 75 mg PO daily
-Metoprolol succinate 50 mg PO daily
-Lisinopril 5 mg PO daily
-Nitroglycerin 0.4 mg SL PRN chest pain

CHANGED MEDICATIONS: none

HELD/STOPPED MEDICATIONS:
-Amlodipine

[ ]At discharge, weight = 92.5 kg.
[ ]At discharge, creatinine = 1.0; recommend repeat Chem-10 in 
one week since addition of lisinopril.
[ ]Consider stress test for non-obstructive LAD and RCA 
stenoses.
[ ]Recommend repeat TTE to assess for left ventricular recovery 
after one to three months of medical optimization. 
[ ]Recommend cardiac rehab.
[ ]ENT recommends non-emergent biopsy of left neck mass and 
follow-up with Dr. ___ in four weeks. 
[ ]Recommend surveillance CT chest for incidental scattered 
subcentimeter pulmonary nodules or sooner, if indicated.

# CODE: Full, presumed 
# CONTACT: ___, wife (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Minocycline 100 mg PO BID:PRN Rosacea 
4. Vitamin D 400 UNIT PO BID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 
minutes Disp #*100 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Finasteride 5 mg PO DAILY  
8.  Minocycline 100 mg PO BID:PRN Rosacea  
9.  Vitamin D 400 UNIT PO BID  
10. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until following up with your outpatient 
cardiologist
11.Outpatient Lab Work
Please draw Chem10 and fax results to Dr. ___ 
(___). ICD10: I25.1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Non-ST Elevation Myocardial Infarction

SECONDARY:
-Non-ischemic cardiomyopathy
-Left neck mass
-Hypertension
-Dyslipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
See Discharge Worksheet.
 
Followup Instructions:
___